US04126611
A slurry of 3.0 g (0.0152 mole) of powdered 2-phenylcyclopentylamine hydrochloride and 3 ml of O-methylbutyrolactim is allowed to stand at room temperature with occasional stirring for 6 days after which the material is covered with absolute ether. The solution is allowed to stand at room temperature for an additional 6 days. A precipitate forms which is collected and recrystallized from acetone-methanol and dried to give 2-[(2-phenylcyclopentyl)imino]pyrrolidine hydrochloride, M.P. 155°-158° C.

reactant | 2-phenylcyclopentylamine hydrochloride | 0.0152 mole, 3.0 g | Cl.C1(=CC=CC=C1)C1C(CCC1)N
reactant | O-methylbutyrolactim | 3 ml | COC=1CCCN1 | C5H9NO
solvent | ether | CCOCC | C4H10O
product | 2-[(2-phenylcyclopentyl)imino]pyrrolidine hydrochloride | Cl.C1(=CC=CC=C1)C1C(CCC1)N=C1NCCC1 | InChI=1S/C15H20N2.ClH/c1-2-6-12(7-3-1)13-8-4-9-14(13)17-15-10-5-11-16-15;/h1-3,6-7,13-14H,4-5,8-11H2,(H,16,17);1H
